US07932272B2
4-Benzyloxybenzylamine
Next, to a solution of the resulting 2-(4benzyloxybenzyl)-isoindol-1,3-dione (37 g, 0.107 mol) in ethanol (1 L) was added hydrazine monohydrate (8.04 g, 0.161 mol), and the solution was stirred for 8 hours under reflux. The reaction solution was allowed to room temperature, then, water was added, and ethanol was evaporated in vacuo. Ethyl acetate and water were added to the residue for partitioning, the organic layer was washed with water, an aqueous solution of 2N sodium hydroxide and water, in this order, and dried over anhydrous magnesium sulfate. The solvent was evaporated, the residue was purified by NH silica gel column chromatography (hexane:ethyl acetate=2:1; hereinafter, the NH silica gel used was manufactured by Fuji Silysia), and the title compound (15 g, 64%) was obtained as a white solid.

reactant | 2-(4benzyloxybenzyl)-isoindol-1,3-dione | 0.107 mol, 37 g | C(C1=CC=CC=C1)OC1=CC=C(CN2C(C3=CC=CC=C3C2=O)=O)C=C1 | C22H17NO3
reactant | hydrazine monohydrate | 0.161 mol, 8.04 g | O.NN
reactant | water | O | H2O
solvent | ethanol | 1 L | C(C)O | C2H6O
product | 4-Benzyloxybenzylamine | C(C1=CC=CC=C1)OC1=CC=C(CN)C=C1 | C14H15NO
